US07855216B2
Step 4: 3-(2-Fluoro-4-iodo-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester
To a cooled (−10° C.) solution of 3-(2-fluoro-4-trimethylsilanyl-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester (140 mg, 0.343 mmol) in DCM (5 mL) was added iodine monochloride (1M in DCM, 0.90 mL) dropwise over 10 minutes. On complete addition the mixture was allowed to stir at ambient temperature for 20 minutes then quenched by the addition of saturated sodium thiosulphate solution (3 mL). The solution was partitioned between DCM (50 mL) and water (10 mL). The organic layer was separated, dried (Na2SO4), filtered and evaporated to give a yellow solid. The solid was triturated with diethyl ether, filtered and left to air dry to provide the title compound as a yellow solid (148 mg, 85%). LCMS (method B): RT=2.37 min, M+H+=426.

reactant | 3-(2-fluoro-4-trimethylsilanyl-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 0.343 mmol, 140 mg | C(C)OC(=O)C1=C(C=2C=NC=CC2N1)NC1=C(C=C(C=C1)[Si](C)(C)C)F | C19H22FN3O2Si
reactant | iodine monochloride | 1M, 0.90 mL | ICl | ClI
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-Fluoro-4-iodo-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 148 mg, 85% | C(C)OC(=O)C1=C(C=2C=NC=CC2N1)NC1=C(C=C(C=C1)I)F | C16H13FIN3O2
